US04336346
(B2) Cyclohexyl N-vinylcarbamate
69 parts of vinyl isocyanate and 89.5 parts of ethyl acetate are introduced into a reaction vessel and heated to 40° C. A mixture of 110 parts of cyclohexanol and 89.5 parts of ethyl acetate (containing 0.02% of dibutyl-tin dilaurate as catalyst) is added in the course of 1 hour. The mixture is then allowed to react for 2 hours at 40° C. A pale yellow solution is obtained, from which the reaction product crystallizes out on cooling. Blocked isocyanate content: 11.7%.

reactant | vinyl isocyanate | C(=C)N=C=O | C3H3NO
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Cyclohexyl N-vinylcarbamate | C(=C)NC(OC1CCCCC1)=O | C9H15NO2
